US07906546B2
A solution of 22 mg (0.05 mmol) (RS, SR)-7-chloro-2-[(3-ethynyl-benzenesulfonyl)-fluoro-(5-methyl-[1,3,4]oxadiazol-2-yl)-methyl]-1,2,3,4-tetrahydro-cyclopenta[b]indole in 0.5 mL of methanol was treated with 1 mg of palladium on activated charcoal (10%) and stirred intensely under H2 (atmospheric pressure) during 5 hrs. Filtration and evaporation of the solvent gave 21 mg (92%) of (RS, SR) 7-chloro-2-[(3-ethyl-benzenesulfonyl)-fluoro-(5-methyl-[1,3,4]oxadiazol-2-yl)-methyl]-1,2,3,4-tetrahydro-cyclopenta[b]indole, as a yellow solid, MS: 475 (MH+)

reactant | (RS, SR)-7-chloro-2-[(3-ethynyl-benzenesulfonyl)-fluoro-(5-methyl-[1,3,4]oxadiazol-2-yl)-methyl]-1,2,3,4-tetrahydro-cyclopenta[b]indole | 0.05 mmol, 22 mg | ClC1=CC=2C3=C(NC2C=C1)CC(C3)C(C=3OC(=NN3)C)(F)S(=O)(=O)C3=CC(=CC=C3)C#C | C23H17ClFN3O3S
solvent | methanol | 0.5 mL | CO | CH4O
catalyst | palladium on activated charcoal | 1 mg | [Pd] | Pd
product | 7-chloro-2-[(3-ethyl-benzenesulfonyl)-fluoro-(5-methyl-[1,3,4]oxadiazol-2-yl)-methyl]-1,2,3,4-tetrahydro-cyclopenta[b]indole | ClC1=CC=2C3=C(NC2C=C1)CC(C3)C(C=3OC(=NN3)C)(F)S(=O)(=O)C3=CC(=CC=C3)CC | C23H21ClFN3O3S
